US08314138B2
Part B. To a solution of 2-bromo-4-methyl-thiazole-5-carboxylic acid benzylamide (350 mg, 1.13 mmol, 1.0 equiv) in dimethyl ether (4 mL) was added Na2CO3 (240 mg, 2.26 mmol, 2.0 equiv), 6-chloropyrazine-2-boronic acid pinacol ester (680 mg, 2.82 mmol, 2.5 equiv), PdCl2(dppf) (83 mg, 0.11 mmol, 0.1 equiv) and water (1 mL) in a sealed tube. The reaction was immersed in an oil bath preheated to 50° C. After 3 days, the reaction was cooled and the solvent was removed in vacuo. The crude product was purified by preparative HPLC (acetonitrile/water, 0.1% trifluoroacetic acid) to give 2-(6-chloropyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid benzylamide (90 mg, 23% yield). 1H NMR (400 MHz, DMSO-d6) δ 9.27 (s, 1H), 8.93 (s, 1H), 7.31-7.39 (m, 4H), 7.23-7.30 (m, 1H), 4.46 (d, J=8.0 Hz, 2H), 2.67 (s, 3H); MS (M+H)+=345.1, Rt=1.46 min.

reactant | 2-bromo-4-methyl-thiazole-5-carboxylic acid benzylamide | 1.13 mmol, 350 mg, 1.0 equiv | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)Br)C | C12H11BrN2OS
reactant | Na2CO3 | 2.26 mmol, 240 mg, 2.0 equiv | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 6-chloropyrazine-2-boronic acid pinacol ester | 2.82 mmol, 680 mg, 2.5 equiv | ClC1=CN=CC(=N1)B1OC(C)(C)C(C)(C)O1 | C10H14BClN2O2
reactant | water | 1 mL | O | H2O
solvent | dimethyl ether | 4 mL | COC | C2H6O
catalyst | PdCl2(dppf) | 0.11 mmol, 83 mg, 0.1 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(6-chloropyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid benzylamide | 90 mg, 23% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)Cl)C | C16H13ClN4OS
